US06433186B1
(i) 3,5-Dinitrobenzylalcohol
To a solution of 3,5-dinitrobenzoic acid (213.0 g, 1.00 mol) in anhydrous THF (1500 mL) at 0° C. was added borane-tetrahydrofuran complex (1.5 L of 1M in THF, 1.50 mol) over 1 h. The resulting heterogeneous mixture was stirred at 0° C. for 3 h and at 25° C. for 18 h. The resulting homogeneous solution was quenched with H2O and concentrated in vacuo until solids were present. The solids were filtered, washed with H2O and dissolved in EtOAc. The aqueous filtrate was extracted with EtOAc. The combined organics were washed with aqueous NaHCO3 and brine, dried (Na2SO4), filtered and concentrated in vacuo to afford 176.0 g (89%) of the sub-title compound as a solid which was used without further purification.

reactant | 3,5-dinitrobenzoic acid | 1.00 mol, 213.0 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4N2O6
reactant | borane tetrahydrofuran | 1.50 mol, 1M, 1.5 L | B.O1CCCC1
solvent | THF | 1500 mL | C1CCOC1 | C4H8O
product | 3,5-Dinitrobenzylalcohol | 176.0 g, 89% | [N+](=O)([O-])C=1C=C(CO)C=C(C1)[N+](=O)[O-] | C7H6N2O5
